US06197729B1
a) dimethyl (4-hydroxyphenyl)malonate
At room temperature and a hydrogen pressure of 5 bar, 94.3 g of diethyl (4-benzyloxyphenyl)malonate (J. Org. Chem. 46, 3007 (1981)) in 500 ml of methanol were hydrogenated in the presence of 5 g of palladium/carbon catalyst (5%). The catalyst was filtered off and the mixture was concentrated, to give the title product as a colourless oil.

reactant | hydrogen | [H][H] | H2
reactant | diethyl (4-benzyloxyphenyl)malonate | 94.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(=O)OCC)C(=O)OCC | C20H22O5
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium/carbon | 5 g | [Pd] | Pd
product | dimethyl (4-hydroxyphenyl)malonate | OC1=CC=C(C=C1)C(C(=O)OC)C(=O)OC | C11H12O5
